US06818646B2
1-(3,4-Methylenedioxyphenyl-2-[5-(4-chlorophenyl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline
Following the same procedure as outlined in Example 12 above, 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (295 mg, 1 mmol) (prepared according to the process as disclosed in WO97/43287, Intermediate 7, page 24) and 2-chloro-5-(4-chlorophenyl)pyrimidine (113 mg, 0.5 mmol) in DMF (5 mL, anhydrous) were reacted to yield the product as a white solid.

reactant | 1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 1 mmol, 295 mg | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
reactant | 2-chloro-5-(4-chlorophenyl)pyrimidine | 0.5 mmol, 113 mg | ClC1=NC=C(C=N1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3,4-Methylenedioxyphenyl-2-[5-(4-chlorophenyl)-pyrimidin-2-yl]-2,3,4,9-tetrahydro-1H-β-carboline | C1OC=2C=C(C=CC2O1)C1N(CCC=2C3=CC=CC=C3NC12)C1=NC=C(C=N1)C1=CC=C(C=C1)Cl | C28H21ClN4O2
